US05578607
A mixture of 4-bromo-5,8-dimethyl-6-nitroquinoline (3.87 g, 13.77 mmol), cuprous cyanide (3.67 g, 41.31 mmol) and dimethylformamide (70 mL) is stirred at room temperature for 30 minutes and then heated to 155° C. and stirred at this temperature for 1 hour. Water is added, and the reaction mixture is filtered. The precipitate is washed with water and methylene chloride. The filtrate is extracted with methylene chloride (3×125 mL), and the combined organic layers are dried (sodium sulfate) and evaporated. Purification by chromatography through a short column consisting of layers of sand/flash silica gel/sand, using chloroform as eluent, provides 4-cyano-5,8-dimethyl-6-nitroquinoline.

reactant | 4-bromo-5,8-dimethyl-6-nitroquinoline | 13.77 mmol, 3.87 g | BrC1=CC=NC2=C(C=C(C(=C12)C)[N+](=O)[O-])C | C11H9BrN2O2
reactant | dimethylformamide | 70 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 4-cyano-5,8-dimethyl-6-nitroquinoline | C(#N)C1=CC=NC2=C(C=C(C(=C12)C)[N+](=O)[O-])C | C12H9N3O2
